US05455253
9-(3-Cyanophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridineone.
A mixture of 9-(3-cyanophenyl)-3,4,6,7,9,10-hexahydro-1,8-(2H,5H)-acridinedione (3.18 g), sodium borohydride (2.50 g) and 50 mL of ethanol was stirred at 70° C. overnight. The mixture was treated with abut 300 mL of water, stirred for several hours and the solid collected by suction filtration, slurried on the funnel with a little ethanol and sucked dry on the funnel. The solid (1.87 g) was combined with 0.49 g of material from a previous run and the combined material was chromatographed, with methanol:dichloromethane (2.5:97.5) as elutent. The solvent evaporated and the residue taken up in 50 mL of methanol and about 20 mL of methylene chloride. The solution was concentrated on a steam bath until crystals started to form, was treated with an equal volume of ethyl acetate and refrigerated overnight. The title compound was obtained as bright yellow crystals (1.16 g); mp 246°-249° C.; NMR: 1.47 (broad s,2, CH2), 1.65-1.87 (m,6, CH2), 2.11 (m,4, CH2), 2.39-2.51 (m,2, CH2), 4.25 (s,1, CH), 7.41-7.57 (m,4, Ar), 8.45 (s,1, NH); (CI, CH4) MS: m/z=305(M+1). Analysis for C20H20N2O: Calculated C, 78.92; H, 6.62; N, 9.20; Found: C, 78.64; H, 6.65; N, 9.08.

reactant | 9-(3-cyanophenyl)-3,4,6,7,9,10-hexahydro-1,8-(2H,5H)-acridinedione | 3.18 g | C(#N)C=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C20H18N2O2
reactant | sodium borohydride | 2.50 g | [BH4-].[Na+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | water | 300 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(3-Cyanophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridineone | C(#N)C=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O | C20H20N2O
